US06756378B2
To a stirred solution of tert-butyl 3-methoxy-4-[N′-(2-trifluoromethylphenyl)ureido]phenylacetate (1.11 g, 2.62 mmol) in CH2Cl2 (10 ml) was added TFA (10 ml), and the reaction mixture was stirred at room temperature for 4 hr. The reaction mixture was concentrated to a small volume and poured into ice-H2O. The resulting precipitate was collected under a reduced pressure and the crude solid was recrystallized from MeOH—CHCl3—IPE to give 3-methoxy-4-[N′-(2-trifluoromethylphenyl)ureido]phenylacetic acid (839 mg, 87%) as a white crystalline powder. mp 218-220° C.; 1H-NMR (DMSO-d6) δ3.51 (s, 2 H), 3.87 (s, 3 H), 6.76-6.79 (m, 1 H), 6.93-6.94 (m, 1 H), 7.27-7.30 (m, 1 H), 7.61-7.69 (m, 2 H), 7.82-7.84 (m, 1 H), 7.97-7.99 (m, 1 H), 8.71 (s, 1 H), 8.89 (s, 1 H), 12.30 (br s, 1 H); Anal. Calcd. for C17H15F3N2O4: C, 55.44; H, 4.11; N, 7.61; F, 15.47. Found: C, 55.30; H, 4.08; N, 7.63; F, 15.13.

reactant | tert-butyl 3-methoxy-4-[N′-(2-trifluoromethylphenyl)ureido]phenylacetate | 2.62 mmol, 1.11 g | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C(F)(F)F)CC(=O)OC(C)(C)C | C21H23F3N2O4
reactant | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-methoxy-4-[N′-(2-trifluoromethylphenyl)ureido]phenylacetic acid | 839 mg, 87% | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C(F)(F)F)CC(=O)O | C17H15F3N2O4
